US07939524B2
c) Methyl (1R,2S,3R,4S)-3-amino-7-oxabicyclo[2.2.1]heptane-2-carboxylate
To a solution of methyl (1R,2S,3R,4S)-3-{[(benzyloxy)carbonyl]amino}-7-oxabicyclo[2.2.1]heptane-2-carboxylate (2.23 g, 7.30 mmol) in ethyl acetate (60 mL), 5% palladium on carbon (0.5 g, 22% by weight) was added. The flask was degassed and backfilled with hydrogen gas via balloon. The mixture was stirred at 25° C. for 16 h, passed through a plug of Celite and rinsed with ethyl acetate. The filtrate was concentrated in vacuo to afford the desired product, methyl (1R,2S,3R,4S)-3-amino-7-oxabicyclo[2.2.1]heptane-2-carboxylate (1.0 g, 5.84 mmol, 80%), as a clear oil. 1H NMR (400 MHz, CDCl3) δ: 1.43 (2H, m), 1.67 (1H, m), 1.76 (1H, m), 2.82 (1H, d, J=7.6 Hz), 3.41 (1H, d, J=7.6 Hz), 3.73 (3H, s), 4.28 (1H, d, J=6.0 Hz), 4.81 (1H, d, J=4.8 Hz).

reactant | methyl (1R,2S,3R,4S)-3-{[(benzyloxy)carbonyl]amino}-7-oxabicyclo[2.2.1]heptane-2-carboxylate | 7.30 mmol, 2.23 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1[C@@H]([C@H]2CC[C@@H]1O2)C(=O)OC | C16H19NO5
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | methyl (1R,2S,3R,4S)-3-amino-7-oxabicyclo[2.2.1]heptane-2-carboxylate | 5.84 mmol, 1.0 g, 80% | N[C@@H]1[C@@H]([C@H]2CC[C@@H]1O2)C(=O)OC | C8H13NO3
